US09382228B2
A −78° C. solution of benzyl 3-oxocyclobutanecarboxylate (11.05 g, 54.1 mmol) in THF (155 mL) was treated drop-wise with methyl magnesium bromide (3M in Et2O, 27.1 mL, 81 mmol) and the mixture stirred at −78° C. for 30 min. Saturated NH4Cl was added, the mixture extracted with EtOAc (2×) and the combined organic extracts were dried, evaporated and purified via silica gel chromatography (acetone/Hex) to afford benzyl 3-hydroxy-3-methylcyclobutanecarboxylate (5.589 g, 47%) as a colorless oil. 1H NMR (400 MHz, DMSO-d6): δ 7.36-7.29 (m, 5H); 5.08 (m, 3H); 2.75-2.66 (m, 1H); 2.13-2.12 (m, 4H); 1.21 (s, 3H); MS (ESI) m/z: 243.1 (M+Na+).

reactant | benzyl 3-oxocyclobutanecarboxylate | 54.1 mmol, 11.05 g | O=C1CC(C1)C(=O)OCC1=CC=CC=C1 | C12H12O3
reactant | methyl magnesium bromide | 81 mmol, 3M, 27.1 mL | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 155 mL | C1CCOC1 | C4H8O
product | benzyl 3-hydroxy-3-methylcyclobutanecarboxylate | 5.589 g, 47% | OC1(CC(C1)C(=O)OCC1=CC=CC=C1)C | C13H16O3
